US04585789
4-(4-Chlorophenyl)-5-(3-hydroxypropyl)-3-methylenetetrahydro-2-furanone (100 mg) was dissolved in acetone (2 ml), and Jones reagent (0.25 ml) was added dropwise with ice-cooling. The mixture was stirred at the same temperature for 2 hours, poured into ice water (20 ml) and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was then distilled off to give crude 3-[3-(4-chlorophenyl)-5-oxo-4-methylenetetrahydro-2-furyl]propionic acid (80 mg) as an oil. The above compound was dissolved in dioxane (5 ml)-water (2 ml), and osmic acid (10 mg) was added. The mixture was stirred at room temperature for 5 minutes. To the reaction mixture was added portionwise sodium periodate (500 mg), and the mixture was stirred at the same temperature for 4 hours, followed by addition of water (20 ml) and extraction with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was then distilled off and the residue was purified by preparative silica gel thin layer chromatography (developer: 10% methanol-chloroform) to give 3-[3-(4-chlorophenyl)-4-hydroxy-5-oxo-2,5-dihydro-2-furyl]propionic acid (20 mg) as colorless crystals.

reactant | 4-(4-Chlorophenyl)-5-(3-hydroxypropyl)-3-methylenetetrahydro-2-furanone | 100 mg | ClC1=CC=C(C=C1)C1C(C(OC1CCCO)=O)=C | C14H15ClO3
reactant | Jones reagent | 0.25 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium periodate | 500 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetone | 2 ml | CC(=O)C | C3H6O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
catalyst | osmic acid | 10 mg | O=[Os](=O)(=O)=O
solvent | water | 20 ml | O | H2O
product | 3-[3-(4-chlorophenyl)-4-hydroxy-5-oxo-2,5-dihydro-2-furyl]propionic acid | 20 mg | ClC1=CC=C(C=C1)C=1C(OC(C1O)=O)CCC(=O)O | C13H11ClO5
